Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
multinodular goiter
 
Major Surgical or Invasive Procedure:
Total thyroidectomy, parathyroid autotransplantation, 
intraoperative nerve monitoring.

 
History of Present Illness:
The patient is a ___ woman who has been followed since 
several years for bilateral multinodular goiter. During the last 
couple of years the goiter has progressively increased in size 
and the patient now has a large dominant nodule on the right 
side measuring approximately 5-6 cm in diameter.  In addition, 
she has multiple additional bilateral nodules the largest on the 
left side measuring approximately 2.5 cm in diameter.  The 
patient has had previous multiple ultrasound-guided fine-needle 
aspiration biopsies performed in particular of the nodules on 
the left side and they have shown benign cytology.  More 
recently, the patient has noticed that the goiter is
growing bigger and she has started to have local symptoms in 
terms of occasional choking sensation.  
 
Social History:
___
Family History:
No family history of thyroid cancer.

 
Physical Exam:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, incision site 
c/d/i, no surrounding erythema or swelling
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: soft, nondistended, nontender, no rebound or guarding 
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 04:00AM BLOOD Calcium-9.0
___ 09:27PM BLOOD Calcium-9.1
___ 08:55PM BLOOD Calcium-9.0
___ 09:45PM BLOOD freeCa-1.09*
 
Brief Hospital Course:
The patient is a ___ year old woman with history of multinodular 
goiter and presented to ___ on ___ and total thyroidectomy, 
parathyroid autotransplantation, intraoperative nerve 
monitoring. The reader is referred to the operative note. The 
patient was transferred to the recovery unit and admitted to the 
general surgery inpatient unit in good condition. Overnight, 
patient reported brief episode of perioral tingling/numbness 
which resolved spontaneously. Serum calcium level was 9.1, 
ionized calcium was 1.09. POD 1, The patient was started on 
thyroid hormone replacement. Her surgical site had no evidence 
of wound infection or hematoma.
At time of discharge on POD 1, the patient was stable, 
tolerating an oral diet, and voiding appropriately. She was 
discharged home on in good condition with follow-up 
instructions.
 
Medications on Admission:
MEDS: Vitamin D2 50,000 U Capsule 1 PO weekly, Fluticasone IN, 
Loratadine 10 mg PO daily

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0
3. Levothyroxine Sodium 125 mcg PO DAILY 
RX *levothyroxine 125 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3
4. Loratadine 10 mg PO DAILY 
5. OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every three (3) hours 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multinodular goiter.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a regular diet and may return home to continue 
your recovery. 
You will be discharged home on thyroid hormone replacement 
(Levothyroxine), please take as prescribed. Your calcium level 
is normal at time of discharge (9.0) and no calcium supplement 
is needed. However, please monitor for symptoms of low Calcium 
such as numbness or tingling around mouth or fingertips. If you 
experience any of these signs or symptoms please call Dr. 
___ or go to emergency room if you have severe 
symptoms. Please have your Calcium level drawn (the day before 
your follow-up appointment). Your follow-up appointment with Dr. 
___ is listed below under follow-up appointments.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softener such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 

Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own. 

Thank you for allowing us to participate in your care.
Your ___ Team
 
Followup Instructions:
___